US06326327B1
Synthesis of 2-(4-bromophenyl)-5-phenyl-4,6-dihydroxypyrimidine
Into a solution of 3.45 g (150 mmol) of sodium in 100 ml methanol, here were sequentially added 10.98 g (47 mmol) 4-bromobenzamidine hydrochloride and 11.15 g (47 mmol) of phenyl malonic acid ethyl ester. The mixture was heated for 12 hours at 80° C. The deep yellow reaction solution was filtered to remove the precipitated sodium chloride and thereafter the pyrimidine was precipitated with 10 ml of 2 molar hydrochloric acid as an intensive yellow solid. The solid was sequentially washed with water, ethanol and diethyl ether. Yield: 12.70 g (37 mmol, 79% theory) of yellow solid. The pyrimidine is insoluble in all tested organic solvents as well as in water. m.p. greater >230° C.

reactant | sodium | 150 mmol, 3.45 g | [Na] | Na
reactant | 4-bromobenzamidine hydrochloride | 47 mmol, 10.98 g | Cl.BrC1=CC=C(C(=N)N)C=C1
reactant | phenyl malonic acid ethyl ester | 47 mmol, 11.15 g | C(C)OC(C(C(=O)O)C1=CC=CC=C1)=O | C11H12O4
solvent | methanol | 100 ml | CO | CH4O
product | 2-(4-bromophenyl)-5-phenyl-4,6-dihydroxypyrimidine | BrC1=CC=C(C=C1)C1=NC(=C(C(=N1)O)C1=CC=CC=C1)O | C16H11BrN2O2
